US06251911B1
A mixture of 80.81 g (286.4 mol) of 3-[2-(Boc-amino)-ethylamino]-2-cyano-3-methylmercapto-acrylonitrile, 14.9 ml (300.7 mmol) of hydrazine hydrate and 500 ml of methanol is heated under reflux for 4 hours and then concentrated by evaporation in vacuo at about 50° C., yielding 5-amino-3-[2-(Boc-amino)-ethylamino]-4-cyano-pyrazole; TLC-Rf=0.27 (methylene chloride/methanol [9:1]).

reactant | 3-[2-(Boc-amino)-ethylamino]-2-cyano-3-methylmercapto-acrylonitrile | 286.4 mol, 80.81 g | C(=O)(OC(C)(C)C)NCCNC(=C(C#N)C#N)SC | C12H18N4O2S
reactant | hydrazine hydrate | 300.7 mmol, 14.9 ml | O.NN
solvent | methanol | 500 ml | CO | CH4O
product | 5-amino-3-[2-(Boc-amino)-ethylamino]-4-cyano-pyrazole | NC1=C(C(=NN1)NCCNC(=O)OC(C)(C)C)C#N | C11H18N6O2
